US04851526
1,2-Diethyl-4-piperidinol
In a manner similar to Preparation 5, react 1,2-diethyl-4-piperidone with lithium aluminum hydride to obtain the title compound.

reactant | 1,2-diethyl-4-piperidone | C(C)N1C(CC(CC1)=O)CC | C9H17NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1,2-Diethyl-4-piperidinol | C(C)N1C(CC(CC1)O)CC | C9H19NO
